US09023847B2
97. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using (2S)-2-amino-4-methylpentan-1-ol instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 359 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.23 (1H, s) 8.00 (1H, d, J=5.37 Hz) 7.78 (1H, d, J=5.37 Hz) 7.62 (1H, d, J=8.59 Hz) 7.45 (1H, d, J=5.37 Hz) 7.30 (1H, dd, J=3.12, 1.85 Hz) 6.75 (1H, d, J=5.47 Hz) 6.42 (1H, d, J=2.73 Hz) 4.68 (1H, t, J=5.66 Hz) 4.05 (1H, td, J=9.42, 4.39 Hz) 3.36-3.47 (1H, m) 1.46-1.63 (1H, m, J=13.76, 6.82, 6.82, 6.65, 6.65 Hz) 1.23-1.45 (2H, m, J=13.36, 9.07, 9.07, 8.92, 4.59 Hz) 0.83 (6H, dd, J=6.54, 4.30 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | (2S)-2-amino-4-methylpentan-1-ol | N[C@H](CO)CC(C)C | C6H15NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide | OC[C@H](CC(C)C)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C18H22N4O2S
